spice
* SPICE Netlist
V1 5 0 DC 0

R1 5 2  Z5
R2 2 0  RE
R3 2 3  RL1
R4 3 0  RL2
R5 6 6  RF
R6 3 6  ZL

Q1 2 5 0 QMODEL1
Q2 3 2 0 QMODEL2
Q3 6 3 0 QMODEL3

.model QMODEL1 NPN
.model QMODEL2 NPN
.model QMODEL3 NPN

.END