plaintext
* SPICE Netlist for Given Schematic

* Voltage Sources
Vs 3 6 DC
Vi 3 8 DC

* Current Source
Is 3 7 DC

* Resistors
R11a 6 5  R11a_value
R12a 5 4  R12a_value
R21a 4 2  R21a_value
R22a 2 9  R22a_value
R11v 7 3  R11v_value
R12v 3 9  R12v_value
R21v 9 2  R21v_value
R22v 2 1  R22v_value

* Load Resistor
ZL 2 2 ZL_value

* Define Nodes
.END