plaintext
* SPICE Netlist for the provided circuit
Vi 5 0 DC 0
RSi 9 7 10k
Ri 7 2 2k
R1R2 2 5 1k  ; Replacing parallel combination (assumed)
RD 3 8 4k
Ro 3 0 5k
Gm 3 2 5 0 gm
Ro_dep 3 4 5 0 rom ; Supposedly dependent voltage-controlled current source

*.include standard SPICE models (if necessary)

.control
run
.endc