plaintext
* SPICE Netlist for the given circuit

Vi 4 0 DC 0V
Vcc 7 0 DC 5V
Vee 6 0 DC -5V

R1 7 8 165k
R2 8 2 35k
RD 8 3 7k
RS 2 2 0.5k

CC 5 8 1uF  ; assuming 1uF for simulation purposes

M1 3 5 2 2 NMOS ; Assuming NMOS model is available
* The drain is connected to node 3, gate to node 5, source to node 2

Vo 3 0

.END