* Components
R1 2 8 100k
RS 8 4 3k
R2 4 9 200k
RD 4 6 10k
CC 7 4

* Voltage sources
VI 7 5 DC
V1 8 0 DC 3V
V2 9 0 DC -3V

* Inputs and Outputs
VO 6 0 DC

* End of netlist