spice
* SPICE Netlist for the Circuit

Vi 6 0 DC 0V
RG 6 2 1k          * Resistance value for RG
RS 2 8 1k          * Resistance value for RS
RL 8 4 1k          * Resistance value for RL
ro 3 0 1k          * Resistance value for ro
G1 2 3 8 0 gm      * Current source with transconductance gm

* Nodes 6 and 0 connected to Vi
* Node 2 is common node for RG, RS, and G1 source terminal
* Node 8 common node for RS and RL
* Node 3 is a node for ro and G1's drain
* Node 4 is Vout (Vo) connection point
* Replace 1k and gm with actual values for simulation
.end