* Netlist for BJT Circuit

Q1 4 2 5 NPN            ; NPN BJT with Collector at 4, Base at 2, Emitter at 5

R_E 5 2 1k              ; Resistor RE between 5 and 2
R_C 4 3 2.5k            ; Resistor RC between 4 and 3
R_B 2 0 10k             ; Resistor RB between 2 and Ground (Node 0)

V_BB 2 5 DC 2V          ; Voltage source VBB between 2 and 5
V_CC 3 0 DC 8V          ; Voltage source VCC between 3 and Ground (Node 0)

.model NPN NPN          ; Define the NPN BJT model

.end