spice
* SPICE netlist for the given schematic

Q1 2 5 8 NPN   * NPN BJT (Collector=2, Base=5, Emitter=8)
RC 2 6 4k      * Resistor RC (4k Ohms, connected between Node 2 and GND)
RE 8 3 1.5k    * Resistor RE (1.5k Ohms, connected between Node 8 and Node 3)
VBB 5 6 DC 2   * Voltage Source VBB (2V, connected between Node 5 and GND)
VPLUS 3 6 DC 2 * Voltage Source V+ (2V, connected between Node 3 and GND)

.END