spice
* SPICE Netlist

V1 7 2 DC 0        * Input Voltage Source
V2 2 0 DC 3.65     * VBB Voltage Source
V3 5 0 DC 5        * V+ Voltage Source

RB 7 5 50k         * Base Resistor
RC 4 3 3k          * Collector Resistor

Q1 5 4 2 NPN       * NPN Transistor (Collector, Base, Emitter)

.END