spice
* SPICE Netlist for the Amplifier Circuit

VCC 6 3 DC 10V
VS 4 3 DC
RS 4 5 0.5k
R1 2 6 56k
R2 2 7 12.2k
RC 6 9 2k
RE 8 3 0.4k
CC 5 7 

Q1 9 7 8 NPN

.END