** SPICE Netlist for the given circuit **

* Voltage Sources
VCC 9 2 DC 12V
Vs 8 2 SINE(...) ; Define as needed for AC source

* Resistors
R1 9 6 1k
R2 4 2 4k
RC 6 10 4k
RE 5 7 1k
RL 3 7 RL_value ; Define RL_value

* Capacitors
CC1 8 4 CC1_value ; Define CC1_value
CC2 5 3 CC2_value ; Define CC2_value
CE 5 7 CE_value ; Define CE_value

* Transistor (Assuming NPN)
Q1 10 4 5 QMODEL

* Model parameters for transistor
.model QMODEL NPN (IS=1e-16 BF=100)

* Simulation Commands
.TRAN 1us 100ms
.AC DEC 10 1k 100MEG
.END