spice
* SPICE netlist for the given schematic

* Voltage sources
Vplus 2 0 DC 3V
Vminus 6 0 DC -3V
Vsupply 3 0 DC 0V

* Resistors
RS 3 4 10k
RL 5 0 1k ; Assuming a value for simulation purposes
Ro 5 5 1k ; Assuming a value for simulation purposes

* Capacitor
CC 5 5 1u ; Assuming a value for simulation purposes

* Current Source
Iconstant 6 5 DC 2mA

* Transistor
Q1 5 4 6 NPN

* Control voltage source for input
Vin 3 3 DC 0V ; Assuming a value for simulation purposes

.END