spice
* SPICE netlist for the given schematic

* Voltage Source
Vi 3 0 DC

* Resistors
RG 3 2 50k
RS 2 0 5k
RD 1 2 6.7k
RL 4 0 10k

* Capacitor
CC 1 4

* Voltage Controlled Current Source (gmVgs)
Gm 1 2 VALUE={gm*v(2,0)}

.END